US05952382
(a) Preparation of methyl 5-[7-(1-adamantyl)-6-benzyloxy-2-naphthyl]-2-thiophenecarboxylate
Following the procedure of Example 1(c), but reacting 1.5 g (3.6 mmol) of 7-(l-adamantyl)-6-benzyloxy-2-naphthylboronic acid with 400 mg (1.8 mmol) of methyl 5-bromo-2-thiophenecarboxylate, 600 mg (65%) of the expected compound were obtained, which compound had a melting point of 170°-1° C.

reactant | 7-(l-adamantyl)-6-benzyloxy-2-naphthylboronic acid | 3.6 mmol, 1.5 g | C12(CC3CC(CC(C1)C3)C2)C2=C(C=C3C=CC(=CC3=C2)B(O)O)OCC2=CC=CC=C2 | C27H29BO3
reactant | methyl 5-bromo-2-thiophenecarboxylate | 1.8 mmol, 400 mg | BrC1=CC=C(S1)C(=O)OC | C6H5BrO2S
product | methyl 5-[7-(1-adamantyl)-6-benzyloxy-2-naphthyl]-2-thiophenecarboxylate | 600 mg, 65% | C12(CC3CC(CC(C1)C3)C2)C2=C(C=C3C=CC(=CC3=C2)C2=CC=C(S2)C(=O)OC)OCC2=CC=CC=C2 | C33H32O3S
